US09284331B2
Step 1: 9-(thiazol-4-yl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione.
104-1. To a degassed solution of 9-iodo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione (1 g, 2.82 mmol) and 4-(tributylstannyl)thiazole (1.48 g, 3.95 mmol) in dioxane (16 mL) was added Pd(PPh3)4 (130 mg, 0.11 mmol) and the mixture was heated in the microwave at 150° C. for 2 h. The solvent was removed under reduced pressure. The crude product was crystallized from DCM to yield the title compound (760 mg). UPLC-MS: MS 312.1 (M+H+); UPLC rt 0.66 min.

reactant | 9-iodo-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 2.82 mmol, 1 g | IC1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C13H11IN2O2
reactant | 4-(tributylstannyl)thiazole | 3.95 mmol, 1.48 g | C(CCC)[Sn](C=1N=CSC1)(CCCC)CCCC
solvent | dioxane | 16 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.11 mmol, 130 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 9-(thiazol-4-yl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 760 mg | S1C=NC(=C1)C1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C16H13N3O2S
